US04128721
By substituting 1-[2-(benzoylthio)-3-(methoxycarbonyl)propanoyl]-L-proline for the 1-[3-(acetylthio)-2-(methoxycarbonylmethyl)propanoyl]-L-proline in the procedure of Example 4, 1-[2-mercapto-3-(methoxycarbonylmethyl)propanoyl]-L-proline is obtained.

reactant | 1-[2-(benzoylthio)-3-(methoxycarbonyl)propanoyl]-L-proline | C(C1=CC=CC=C1)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)CC(=O)OC | C17H19NO6S
reactant | 1-[3-(acetylthio)-2-(methoxycarbonylmethyl)propanoyl]-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC(=O)OC | C13H19NO6S
product | 1-[2-mercapto-3-(methoxycarbonylmethyl)propanoyl]-L-proline | SC(C(=O)N1[C@H](C(=O)O)CCC1)CCC(=O)OC | C11H17NO5S
